US07098226B2
Next, anhydrous tetrahydrofuran (7 ml) was added to 3-[N-(t-butoxycarbonyl)-N-(2-cyclohexylethyl)amino]propionic acid (0.59 g, 2.0 mmol), and the mixture was stirred at −78° C. N-Methylmorpholine (0.22 ml, 2.0 mmol) and then a solution of isobutyl chloroformate (0.38 ml, 2.9 mmol) in tetrahydrofuran (3 ml) were added to the mixture. After one hour, a 28% aqueous ammonia solution (6.0 ml, 9.8 mmol) was added thereto, and the whole was stirred for 1.5 hours. Chloroform (50 ml) was added to the reaction mixture, the temperature was raised to room temperature, and the whole was washed with a saturated aqueous sodium hydrogencarbonate solution (20 ml) and saturated brine (20 ml) successively. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give 0.34 g (58%) of 3-[N-(t-butoxycarbonyl)-N-(2-cyclohexylethyl)amino]propionamide as colorless crystals.

reactant | 3-[N-(t-butoxycarbonyl)-N-(2-cyclohexylethyl)amino]propionic acid | 2.0 mmol, 0.59 g | C(C)(C)(C)OC(=O)N(CCC1CCCCC1)CCC(=O)O | C16H29NO4
reactant | N-Methylmorpholine | 2.0 mmol, 0.22 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.9 mmol, 0.38 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | 9.8 mmol, 6.0 ml | N | H3N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | Chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[N-(t-butoxycarbonyl)-N-(2-cyclohexylethyl)amino]propionamide | 0.34 g, 58% | C(C)(C)(C)OC(=O)N(CCC1CCCCC1)CCC(=O)N | C16H30N2O3
